US08664258B2
Preparation of 3,4-Dihydro-1H-isoquinoline-2-carboxylic acid [4-(2-amino-ethoxy)-3-(2-methyl-2H-pyrazol-3-yl)-phenyl]-amide (Compound 269)
A 2 mL aliquot of tert-butyl {2-[4-({[(2,5-dioxopyrrolidin-1-yl)oxy]carbonyl}amino)-2-(1-methyl-1H-pyrazol-5-yl)phenoxy]ethyl}carbamate in dimethylformamide (60.0 μmol) was added to 1,2,3,4-tetrahydroisoquinoline (9.59 mg, 1.2 eq) and stirred at room temperature for 18 hr. To this was added 2.0M hydrochloric acid in ether (150 μL, 5 eq) and the reaction was stirred at room temperature for 60 hr. Some of the deprotections were incomplete so 2-3 drops of concentrated hydrochloric acid was added to these and they were stirred for another 24 hr. The ether and hydrochloric acid were evaporated under a stream of nitrogen and it was purified by HPLC. The proper fractions were collected and lyophilized to afford the title compound as a white solid in 42.9% yield. LCMS m/z (%)=392 (M+H, 100). 1H NMR (400 MHz, DMSO-d6) δ ppm 2.85 (t, J=5.81 Hz, 2 H), 3.09-3.17 (m, 2 H), 3.69 (t, J=5.6 Hz, 2 H), 3.69 (s, 3 H), 4.12 (t, J=5.56 Hz, 2 H), 4.63 (s, 2 H), 6.32 (d, J=2.02 Hz, 1 H), 7.13 (d, J=9.09 Hz, 1 H), 7.19 (s, 3 H), 7.43 (d, J=2.53 Hz, 1 H), 7.47 (d, J=1.52 Hz, 1 H), 7.57 (dd, J=9.09, 3.03 Hz, 1 H), 7.87 (s, 2 H), 8.60 (s, 1 H).

reactant | tert-butyl {2-[4-({[(2,5-dioxopyrrolidin-1-yl)oxy]carbonyl}amino)-2-(1-methyl-1H-pyrazol-5-yl)phenoxy]ethyl}carbamate | O=C1N(C(CC1)=O)OC(=O)NC1=CC(=C(OCCNC(OC(C)(C)C)=O)C=C1)C1=CC=NN1C | C22H27N5O7
reactant | dimethylformamide | 60.0 μmol | CN(C=O)C | C3H7NO
reactant | 1,2,3,4-tetrahydroisoquinoline | 9.59 mg, 1.2 eq | C1NCCC2=CC=CC=C12 | C9H11N
reactant | hydrochloric acid | 2.0M | Cl | ClH
reactant | ether | 150 μL, 5 eq | CCOCC | C4H10O
catalyst | hydrochloric acid | 2-3 drops | Cl | ClH
product | 3,4-Dihydro-1H-isoquinoline-2-carboxylic acid [4-(2-amino-ethoxy)-3-(2-methyl-2H-pyrazol-3-yl)-phenyl]-amide | 42.9% yield | NCCOC1=C(C=C(C=C1)NC(=O)N1CC2=CC=CC=C2CC1)C=1N(N=CC1)C | C22H25N5O2
